US03968227
i. 3-Benzoylaminopropylamine was treated successively with carbon disulphide and methyl iodide according to the general procedure of Example 1(a)(b) to give S-methyl-N-(3-benzoylaminopropyl)dithiocarbamate hydriodide

reactant | 3-Benzoylaminopropylamine | C(C1=CC=CC=C1)(=O)NCCCN | C10H14N2O
reactant | methyl iodide | CI | CH3I
reactant | carbon disulphide | C(=S)=S | CS2
product | S-methyl-N-(3-benzoylaminopropyl)dithiocarbamate hydriodide | I.CSC(NCCCNC(C1=CC=CC=C1)=O)=S | InChI=1S/C12H16N2OS2.HI/c1-17-12(16)14-9-5-8-13-11(15)10-6-3-2-4-7-10;/h2-4,6-7H,5,8-9H2,1H3,(H,13,15)(H,14,16);1H
